* File: test_inv3.pex.netlist.pex
* Created: Wed Jun 11 15:33:20 2025
* Program "Calibre xRC"
* Version "v2019.2_26.18"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_TEST_INV3_VSS 1 6 14 27
c0 38 0 0.0101075f
c1 34 0 4.36716e-19
c2 30 0 3.4451e-20
c3 6 0 0.00153002f
c4 1 0 0.00239065f
r5 30 38 12.142
r6 27 30 0.864198
r7 27 28 3.58025
r8 24 25 0.987654
r9 23 38 137.755
r10 23 34 68.8775
r11 22 28 2.22222
r12 22 25 0.864198
r13 22 23 2.27662
r14 18 24 1.48148
r15 18 20 0.493827
r16 18 34 12.142
r17 14 20 1.04938
r18 6 38 54.8065
r19 4 34 54.8065
r20 1 4 7.40741
.ends

.subckt PM_TEST_INV3_VDD 1 6 14 27
c0 38 0 0.0100995f
c1 30 0 3.4451e-20
c2 6 0 0.0019052f
c3 4 0 4.36716e-19
c4 1 0 0.00239065f
r5 30 38 12.142
r6 27 30 2.03704
r7 27 28 2.40741
r8 24 25 0.987654
r9 23 38 137.755
r10 23 34 68.8775
r11 22 28 2.22222
r12 22 25 0.864198
r13 22 23 2.27662
r14 18 24 1.48148
r15 18 20 0.493827
r16 18 34 12.142
r17 14 20 0.617284
r18 6 38 54.375
r19 4 34 54.375
r20 1 4 7.40741
.ends

.subckt PM_TEST_INV3_A 2 7 15
c0 15 0 8.74173e-19
c1 5 0 5.42821e-21
c2 2 0 0.00128682f
r3 18 19 6.07099
r4 15 18 1.04938
r5 5 19 15.7699
r6 5 7 259.152
r7 2 5 259.152
.ends

.subckt PM_TEST_INV3_Y 1 6 14
c0 19 0 1.28468e-19
c1 14 0 0.00115126f
c2 9 0 0.00251912f
c3 4 0 0.00239065f
r4 28 29 0.555556
r5 25 29 1.11111
r6 21 22 0.555556
r7 18 22 1.11111
r8 18 19 6.07099
r9 15 16 1.11111
r10 14 15 0.709877
r11 12 28 0.0652542
r12 12 16 5
r13 11 21 0.0652542
r14 11 14 4.29012
r15 9 25 6.07099
r16 6 9 7.40741
r17 4 19 27.1875
r18 1 4 7.40741
.ends

