************************************************************************
* auCdl Netlist:
* 
* Library Name:  testLib
* Top Cell Name: test_inv3
* View Name:     schematic
* Netlisted on:  Jun 11 15:07:28 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: testLib
* Cell Name:    test_inv3
* View Name:    schematic
************************************************************************

.SUBCKT test_inv3 A VDD VSS Y
*.PININFO A:I Y:O VDD:B VSS:B
MM1 Y A VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM0 Y A VSS VSS nmos_rvt w=81.0n l=20n nfin=3
.ENDS

