************************************************************************
* auCdl Netlist:
* 
* Library Name:  testLib
* Top Cell Name: sram_1
* View Name:     schematic
* Netlisted on:  Jun 11 12:24:46 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: testLib
* Cell Name:    sram_1
* View Name:    schematic
************************************************************************

.SUBCKT sram_1 BL BLN VDD VSS WL
*.PININFO WL:I BL:B BLN:B VDD:B VSS:B
MM0 net2 WL BL VSS nmos_sram w=54.0n l=20n nfin=2
MM3 net4 WL BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM1 net4 net2 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM2 net2 net4 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM4 net4 net2 VDD VDD pmos_sram w=27n l=20n nfin=1
MM5 net2 net4 VDD VDD pmos_sram w=27n l=20n nfin=1
.ENDS

