************************************************************************
* auCdl Netlist:
* 
* Library Name:  testLib
* Top Cell Name: senseA_1
* View Name:     schematic
* Netlisted on:  Jun 14 07:46:11 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: testLib
* Cell Name:    senseA_1
* View Name:    schematic
************************************************************************

.SUBCKT senseA_1 BL BLN BLN_S BL_S SA_EN VDD VSS
*.PININFO BL:B BLN:B BLN_S:B BL_S:B SA_EN:B VDD:B VSS:B
MM2 net3 SA_EN VSS VSS nmos_sram w=27.0n l=20n nfin=1
MM1 BLN_S BL_S net3 VSS nmos_sram w=27.0n l=20n nfin=1
MM0 BL_S BLN_S net3 VSS nmos_sram w=27.0n l=20n nfin=1
MM6 BL_S SA_EN BL VDD pmos_sram w=27n l=20n nfin=1
MM5 BLN_S SA_EN BLN VDD pmos_sram w=27n l=20n nfin=1
MM4 BLN_S BL_S VDD VDD pmos_sram w=27n l=20n nfin=1
MM3 BL_S BLN_S VDD VDD pmos_sram w=27n l=20n nfin=1
.ENDS

