* File: sram_4.pex.netlist.pex
* Created: Thu Jun 12 09:37:13 2025
* Program "Calibre xRC"
* Version "v2019.2_26.18"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_SRAM_4_WL 2 5 8 14 18
c6 43 0 1.02341e-19
c7 42 0 1.11556e-19
c8 36 0 1.15964e-19
c9 15 0 1.06277e-19
c10 11 0 3.36074e-21
c11 8 0 0.0010389f
c12 2 0 3.36074e-21
r13 42 43 8.97531
r14 36 37 8.97531
r15 22 43 1.60494
r16 21 23 2.83951
r17 21 22 8.97531
r18 18 23 8.7037
r19 18 19 10.7407
r20 15 37 1.60494
r21 14 19 2.77778
r22 14 15 8.97531
r23 11 42 6.07099
r24 8 11 208.281
r25 2 36 6.07099
r26 2 5 205.402
.ends

.subckt PM_SRAM_4_NET20 2 5 7 9 10 13 14 22
c3 14 0 7.96885e-19
c4 13 0 7.53295e-19
c5 9 0 0.00216753f
c6 2 0 0.00182988f
r7 14 22 22.2222
r8 13 22 81.5625
r9 10 13 12.5926
r10 9 13 12.5926
r11 5 7 362.812
r12 2 22 23.8095
r13 2 5 412.723
.ends

.subckt PM_SRAM_4_NET19 2 5 7 9 10 14 17
c2 17 0 0.00155327f
c3 9 0 0.00216753f
c4 2 0 7.08342e-19
r5 14 17 22.2222
r6 13 17 81.994
r7 10 13 12.5926
r8 9 13 12.5926
r9 7 17 23.8095
r10 5 7 412.723
r11 2 5 362.812
.ends

.subckt PM_SRAM_4_BL 1 11
c2 16 0 2.39114e-19
c3 11 0 4.77753e-19
c4 4 0 2.7144e-19
c5 1 0 0.00159377f
r6 16 22 0.987654
r7 8 22 1.2963
r8 7 11 6.66667
r9 7 8 8.97531
r10 4 16 6.07099
r11 1 4 11.1111
.ends

.subckt PM_SRAM_4_VSS 1 6 11 25 87 112
c5 112 0 5.30514e-19
c6 87 0 5.3502e-19
c7 67 0 1.53232e-19
c8 54 0 1.53385e-19
c9 53 0 2.65436e-19
c10 41 0 5.42624e-20
c11 34 0 3.42931e-20
c12 11 0 0.00225442f
c13 9 0 0.00159377f
c14 4 0 2.65436e-19
c15 1 0 0.00159377f
r16 109 110 3.58025
r17 108 109 4.25926
r18 99 100 4.25926
r19 93 112 2.22222
r20 93 110 3.02469
r21 87 102 3.02469
r22 80 102 3.64198
r23 80 100 2.03704
r24 79 81 1.66667
r25 79 80 8.97531
r26 68 108 2.46914
r27 67 72 2.03704
r28 67 68 8.97531
r29 54 81 0.617284
r30 53 54 6.07099
r31 50 72 0.246914
r32 49 50 6.07099
r33 41 93 8.97531
r34 34 87 8.97531
r35 30 68 2.28395
r36 29 30 8.97531
r37 26 99 2.65432
r38 25 29 18.3333
r39 25 26 8.97531
r40 11 41 6.07099
r41 11 34 6.07099
r42 9 53 31.9345
r43 6 9 11.1111
r44 4 49 31.9345
r45 1 4 11.1111
.ends

.subckt PM_SRAM_4_VDD 1 6 11 18 26 45
c6 66 0 3.98083e-19
c7 49 0 6.94115e-20
c8 48 0 1.60793e-19
c9 45 0 1.98234e-19
c10 28 0 3.45302e-20
c11 18 0 3.45302e-20
c12 11 0 0.00153002f
c13 9 0 0.00125987f
c14 4 0 4.62989e-19
c15 1 0 7.96885e-19
r16 48 49 6.07099
r17 41 45 2.22222
r18 41 43 3.02469
r19 41 49 8.97531
r20 38 67 1.00178
r21 38 66 0.711788
r22 37 43 6.97531
r23 37 38 8.97531
r24 35 67 0.184538
r25 34 66 0.448163
r26 30 31 0.617284
r27 28 31 0.555556
r28 26 34 0.70773
r29 26 30 1.11111
r30 24 25 0.617284
r31 20 24 0.555556
r32 18 35 0.70773
r33 18 25 1.04938
r34 11 48 15.9673
r35 9 28 6.07099
r36 6 9 22.2222
r37 4 20 6.07099
r38 1 4 22.2222
.ends

.subckt PM_SRAM_4_BLN 1 7 10
c2 11 0 2.57185e-19
c3 10 0 4.7636e-19
c4 4 0 0.00186521f
r5 15 21 0.617284
r6 11 21 1.66667
r7 10 11 8.97531
r8 7 10 1.66667
r9 4 15 6.07099
r10 1 4 11.1111
.ends

